US06448424B1
Following the procedure described in example 1 [step (c)], 3methyltetrahydrofluorene (3.00 g, 16.3 mmol), butyllithium (16.30 mmol) and dichlorodimethylsilane (0.99 ml, 8.15 mmol) gave bis-(3-methyltetrahydro-fluorenyl) dimethylsilane (1.00 g, 29%) as a white solid that was recrystallized from hexane; mp 179-180° C., 1H NMR (CDCl3): δ7.38-6.90 (m, 6H, arom), 3.47 (s, 2H, C5), 2.50-2.45 (m, 8H), 2.48 (s, 6H, CH3), 1.87-1.58 (m, 8H), −0.27 (s, 6H, Si—CH3). Analysis calculated for C30H36Si: C, 84.84; H, 8.54. Found C, 84.57; H, 8.70.

reactant | 3methyltetrahydrofluorene | 16.3 mmol, 3.00 g | CC1CCC=2CC3=CC=CC=C3C2C1 | C14H16
reactant | butyllithium | 16.30 mmol | C(CCC)[Li]
reactant | dichlorodimethylsilane | 8.15 mmol, 0.99 ml | Cl[Si](C)(C)Cl | C2H6Cl2Si
product | bis-(3-methyltetrahydro-fluorenyl) dimethylsilane | 1.00 g, 29% | CC1CC(C=2CC3=CC=CC=C3C2C1)[Si](C)(C)C1CC(CC=2C3=CC=CC=C3CC12)C | C30H36Si
